US07375113B2
4-(2-Phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine
A mixture of 4-(2-phenylethyl)-1H-pyrazolo[3,4-b]-pyridin-3-ol (0.59 g), potassium carbonate (0.68 g), 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide (1.71 g) and acetonitrile (10 mL) was stirred at 50° C. overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with diethyl ether. The extract was washed with water twice and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=3/1-1/1) to give the title compound (0.22 g).

reactant | 4-(2-phenylethyl)-1H-pyrazolo[3,4-b]-pyridin-3-ol | 0.59 g | C1(=CC=CC=C1)CCC1=C2C(=NC=C1)NN=C2O | C14H13N3O
reactant | potassium carbonate | 0.68 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide | 1.71 g | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
reactant | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-(2-Phenylethyl)-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazolo[3,4-b]pyridine | 0.22 g | C1(=CC=CC=C1)CCC1=C2C(=NC=C1)NN=C2O[C@H]2[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O2)COC(C(C)(C)C)=O | C40H55N3O10
